US04618677
The procedure described in Example 1(b) was followed, using 1.0 g of thiourea, 4.0 g of 1-[4-(4-chlorophenyl)butyl]-4-(3-chloropropyl)piperazine dihydrochloride and 50 ml of reagent ethanol. The hydrolysis was effected with 4.0 g of sodium hydroxide in 50 ml of water. Work-up of the free base, as described above, followed by purification on a silica gel column (methylene chloride:methanol, 97:3), precipitation as the hydrochloride salt and recrystallization from reagent ethanol, gave 0.6 g (16% of theory) of 3-{4-[4-(4-chlorophenyl)butyl]piperazin-1-yl}propanethiol dihydrochloride as a white crystalline solid, M.p. 254°-259° C.

reactant | thiourea | 1.0 g | NC(=S)N | CH4N2S
reactant | 1-[4-(4-chlorophenyl)butyl]-4-(3-chloropropyl)piperazine dihydrochloride | 4.0 g | Cl.Cl.ClC1=CC=C(C=C1)CCCCN1CCN(CC1)CCCCl
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 4.0 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 3-{4-[4-(4-chlorophenyl)butyl]piperazin-1-yl}propanethiol dihydrochloride | 0.6 g, 16% | Cl.Cl.ClC1=CC=C(C=C1)CCCCN1CCN(CC1)CCCS | InChI=1S/C17H27ClN2S.2ClH/c18-17-7-5-16(6-8-17)4-1-2-9-19-11-13-20(14-12-19)10-3-15-21;;/h5-8,21H,1-4,9-15H2;2*1H
